US03956341
Twenty grams of 2,4-pentanedione and 17.5 ml. of ammonium hydroxide are added to 16.4 g. of methyl p-formylbenzoate in 120 ml. of ethanol and the resulting mixture is heated at reflux for five hours, then poured onto ice. The precipitated solid is filtered off and dried to give 3,5-diacetyl-4-(4-carbomethoxyphenyl)-1,4-dihydro-2,6-dimethylpyridine.

reactant | 2,4-pentanedione | Twenty grams | CC(CC(C)=O)=O | C5H8O2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | methyl p-formylbenzoate | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
solvent | ethanol | C(C)O | C2H6O
product | 3,5-diacetyl-4-(4-carbomethoxyphenyl)-1,4-dihydro-2,6-dimethylpyridine | C(C)(=O)C1=C(NC(=C(C1C1=CC=C(C=C1)C(=O)OC)C(C)=O)C)C | C19H21NO4
